US08426447B2
A 100 ml RBF vial was charged with (S)-2′-bromo-7′-iodo-5H-spiro[oxazole-4,9′-xanthen]-2-amine (3.37 g, 7.37 mmol) in dioxane (30 mL), water (15 mL), phenylboronic acid (0.965 g, 7.91 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (0.106 g, 0.150 mmol), and potassium phosphate-tribasic (3.17 g, 14.93 mmol). The reaction was heated to 100° C. in an oil-bath for 8 hours. The reaction was diluted with ethyl acetate (100 mL), water (25 mL), and the ethyl acetate layer was separated and dried over anhydrous sodium sulfate. Concentration and purification by silica gel flash column chromatography (hexanes/ethyl acetate) provided (R)-2′-bromo-7′-phenyl-5H-spiro[oxazole-4,9′-xanthen]-2-amine.

reactant | (S)-2′-bromo-7′-iodo-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 7.37 mmol, 3.37 g | BrC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)I)N=C(OC3)N | C15H10BrIN2O2
reactant | phenylboronic acid | 7.91 mmol, 0.965 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 15 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 25 mL | O | H2O
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.150 mmol, 0.106 g | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | (R)-2′-bromo-7′-phenyl-5H-spiro[oxazole-4,9′-xanthen]-2-amine | BrC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)C1=CC=CC=C1)N=C(OC3)N | C21H15BrN2O2
